US04263442
Benzoin (106 g, 0.5 mole), 2-mercaptoethanol (43 g, 0.55 mole), and p-toluenesulfonic acid (pTSA) (5 g) are charged into a 2-liter 3-neck flask. n-Butanol (1200 mL) is added and the mixture stirred with a mechanical stirrer. The reaction is heated to reflux and the distillate passed through a vacuum-jacketed column (18 in by 3/4 in) packed with porcelain saddles. A Dean-Stark trap is placed at the top of the column to assist in the separation of the aqueous layer from the butanol/water azeotrope. After water ceases to separate, distillate is slowly removed until the vapor temperature at the top of the column reaches 117°-118°, the boiling point of dry n-butanol. The reaction mixture is cooled and seeded, and the crystalline product separated by filtration. The filtrate is returned to the reactor along with further amounts of benzoin, 2-mercaptoethanol, and pTSA as specified above. Sufficient n-butanol is added to make up for that removed in the prior reaction. When the procedure is repeated five times, the overall isolated yield of 2,3 -dihydro-5,6-diphenyl-1,4-oxathiin is 76% of theoretical.

reactant | Benzoin | 0.5 mole, 106 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | 2-mercaptoethanol | 0.55 mole, 43 g | SCCO | C2H6OS
reactant | p-toluenesulfonic acid | 5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | n-Butanol | 1200 mL | C(CCC)O | C4H10O
product | 2,3 -dihydro-5,6-diphenyl-1,4-oxathiin | C1(=CC=CC=C1)C=1SCCOC1C1=CC=CC=C1 | C16H14OS
